US06110939
(±)-cis-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)-4-piperidinol (2.6 g) dissolved in N,N-dimethylformamide (100 ml) was stirred under N2. Sodium hydride (60%) (0.36 g) was added and the mixture was stirred at 40° C. for 1 hour. 2-Chloro-1-[(4-fluorophenyl)-methyl]-1H-benzimidazole (2.6 g) was added and the mixture was stirred at 60° C. for 20 hours. The solvent was evaporated and the residue was taken up in water and CH2Cl2. The organic layer was separated, dried, filtered and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH 97/3). The pure fractions were collected and the solvent was evaporated. The residue was crystallized from DIPE, yielding 2.85 g (65%) of (±)-cis-1-(3,5-dimethylbenzoyl)-4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]oxy]-2-(phenylmethyl)piperidine (comp. 70; mp. 154.1° C.).

reactant | (±)-cis-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)-4-piperidinol | 2.6 g | CC=1C=C(C(=O)N2[C@H](C[C@H](CC2)O)CC2=CC=CC=C2)C=C(C1)C | C21H25NO2
reactant | Sodium hydride | 0.36 g | [H-].[Na+]
reactant | 2-Chloro-1-[(4-fluorophenyl)-methyl]-1H-benzimidazole | 2.6 g | ClC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C14H10ClFN2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (±)-cis-1-(3,5-dimethylbenzoyl)-4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]oxy]-2-(phenylmethyl)piperidine | 2.85 g, 65% | CC=1C=C(C(=O)N2[C@H](C[C@H](CC2)OC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)CC3=CC=CC=C3)C=C(C1)C | C35H34FN3O2
